US06780870B2
(5-methyl-1H-imidazol-4-yl)methyl[4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2yl]formamide
To a stirred solution of 4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2-ylformamide (0.5 g, 1.54 mmol) in dry dimethylformamide (10 ml) under N2 was added sodium hydride (60% dispersion in oil, 0.16 g). The mixture was stirred for 30 mins, 4-(chloromethyl)-5-methyl-1H-imidazole, hydrochloride (0.283 g) was added and stirring was then continued at room temp for 18 h. The mixture was then partitioned between water and ethyl acetate. The extracts were dried (Na2SO4) and evaporated. The residue was then triturated with diethyl ether giving the crude title compound as a pale yellow solid (0.27 g).

reactant | 4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2-ylformamide | 1.54 mmol, 0.5 g | CS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)NC=O | C13H10F3N3O3S
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 4-(chloromethyl)-5-methyl-1H-imidazole, hydrochloride | 0.283 g | Cl.ClCC=1N=CNC1C
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (5-methyl-1H-imidazol-4-yl)methyl[4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2yl]formamide | CC1=C(N=CN1)C(=O)N(C1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F)C | C18H16F3N5O3S
